US07732618B2
d.) [5-(4-Fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester.
Butyraldehyde (3.8 mL, 41.8 mmol) and acetic acid (1.4 mL) were added to a solution of [2-amino-4-(4-fluoro-benzenesulfonylamino)-phenylamino]-acetic acid tert-butyl ester (12.5 g, 26.8 mmol) in EtOH (135 mL), and stirred overnight at 70° C. The reaction mixture was cooled to ambient temperature and concentrated under reduced pressure to give the crude sub-titled compound that was used without further purification. MS calculated for C22H26FN3O4S—H: 446, observed: 446.

reactant | Butyraldehyde | 41.8 mmol, 3.8 mL | C(CCC)=O | C4H8O
reactant | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
reactant | [2-amino-4-(4-fluoro-benzenesulfonylamino)-phenylamino]-acetic acid tert-butyl ester | 26.8 mmol, 12.5 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)F)N)=O | C18H22FN3O4S
solvent | EtOH | 135 mL | CCO | C2H6O
product | [5-(4-Fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C22H26FN3O4S
